US08022062B2
(±)-1-(3,5-Difluoro-4-methoxyphenyl)ethylamine
Slurry 3′,5′-difluoro-4′-methoxyacetophenone (1.0 g, 5.0 mmol), ammonium acetate (4.14 g, 50 mmol) and sodium cyanoborohydride (630 mg, 20 mmol) in anhydrous methanol (35 mL) and stir for 18 h at ambient temperature. Acidify with 1N aqueous HCl (5 mL), dilute, extract with ethyl ether (3×150 mL), basify aqueous with 1N aqueous NaOH, extract with DCM (3×50 mL), wash the organic extracts with brine, dry over MgSO4, filter and concentrate in vacuo. Purify by SCX chromatography to give crude the title compound as a yellow oil (380 mg).

reactant | 3′,5′-difluoro-4′-methoxyacetophenone | 5.0 mmol, 1.0 g | FC=1C=C(C=C(C1OC)F)C(C)=O | C9H8F2O2
reactant | ammonium acetate | 50 mmol, 4.14 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 20 mmol, 630 mg | C(#N)[BH3-].[Na+]
reactant | HCl | 1N, 5 mL | Cl | ClH
solvent | methanol | 35 mL | CO | CH4O
product | (±)-1-(3,5-Difluoro-4-methoxyphenyl)ethylamine | 380 mg | FC=1C=C(C=C(C1OC)F)C(C)N | C9H11F2NO
